US07790770B2
At −78° C. under argon, to a solution of 1-bromo-3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)benzene (2.04 g, 7.01 mmol) in anhydrous ether (20 mL) was added nBuLi (3.5 mL, 2.0 M in cyclohexane, 7.0 mmol) dropwise and the reaction mixture was stirred for 1 h. 3-(Tert-butyldimethylsilyloxy)-4-fluoro-N-methoxy-N-methylbenzamide (2.00 g, 6.38 mmol) was added in one portion and the reaction mixture was stirred at −78° C. for 1.5 h. The pale yellow solution was poured into 1 N HCl aqueous solution (30 mL) and ether (30 mL) was used to rinse the reaction flask. The aqueous phase was separated and extracted with ether (20 mL). The combined ether portions were dried over Na2SO4, filtered and concentrated. The resulting oil was purified by ISCO chromatography (120 g column) using hexanes/EtOAc (0-100% over 30 min) to give (3-(tert-butyldimethylsilyloxy)-4-fluorophenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone at a retention time of 7 min (2.11 g, 71% yield). LCMS: RT=2.41 min [M+H] 465.19 (Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm); NMR: 400 MHz 1H (CDCl3) 7.33 ppm, 3H, m; 7.28 ppm, 1H, m; 7.11 ppm, 2H, m; 5.86 ppm, 1H, t, J=53.39 Hz; 0.95 ppm, 9H, s; 0.15 ppm, 6H, s.

reactant | 1-bromo-3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)benzene | 7.01 mmol, 2.04 g | BrC1=CC(=CC(=C1)OC(C(F)F)(F)F)F | C8H4BrF5O
reactant | nBuLi | 7.0 mmol, 2.0 M, 3.5 mL | [Li]CCCC
reactant | 3-(Tert-butyldimethylsilyloxy)-4-fluoro-N-methoxy-N-methylbenzamide | 6.38 mmol, 2.00 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=O)N(C)OC)C=CC1F | C15H24FNO3Si
reactant | HCl | 1 N, 30 mL | Cl | ClH
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ether | 30 mL | CCOCC | C4H10O
product | (3-(tert-butyldimethylsilyloxy)-4-fluorophenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone | 71% yield | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1F)C(=O)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F | C21H22F6O3Si
